US05225402
Dichloromethane (10 ml) and triethylamine (0.15 ml) are added to 6-amino-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.3 g). Acetic anhydride (0.2 ml) is added thereto and the mixture is stirred at room temperature for 1 hour. Water is added to the reaction mixture and extracted with dichloromethane. After concentration, the residue is purified by silica gel column chromatography (solvent; chloroform:methanol=20:1) and further recrystallized from ethanol to give 6-acetylamino-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril (0.25 g) as white powder, m.p. 271°-272° C.

reactant | Dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | triethylamine | 0.15 ml | C(C)N(CC)CC | C6H15N
reactant | 6-amino-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.3 g | NC=1C=C2CCC(N(C2=CC1)C1CCN(CC1)C(C1=C(C=C(C=C1)OC)OC)=O)=O | C23H27N3O4
reactant | Acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Water | O | H2O
product | 6-acetylamino-1-[1-(2,4-dimethoxybenzoyl)-4-piperidinyl]-3,4-dihydrocarbostyril | 0.25 g | C(C)(=O)NC=1C=C2CCC(N(C2=CC1)C1CCN(CC1)C(C1=C(C=C(C=C1)OC)OC)=O)=O | C25H29N3O5
